US09169249B2
Preparation of 1-(5-(5-fluoro-4-(hexahydro-5,5-dimethylindolizin-3(5H)-one-7-ylamino)pyrimidin-2-ylamino)-2-cyclopropyl-4-fluorophenyl)-4-methyl-1H-tetrazol-5(4H)-one (Compound 31)
A mixture of 7-(2-chloro-5-fluoropyrimidin-4-ylamino)-hexahydro-5,5-dimethylindolizin-3(5H)-one isomer A (cis) (50 mg), 1-(5-amino-2-cyclopropyl-4-fluorophenyl)-4-methyl-1H-tetrazol-5(4H)-one (50 mg) and TFA (5 drops) in isopropanol (1 ml) was heated at 100° C. overnight in a sealed vial. After allowing to cool to room temperature, the solvent was removed in vacuo and the residue was purified by Combiflash chromatography (2.0 M ammonia methanol in dichloromethane=0-30%) to give product as racemic mixture.

reactant | 7-(2-chloro-5-fluoropyrimidin-4-ylamino)-hexahydro-5,5-dimethylindolizin-3(5H)-one | ClC1=NC=C(C(=N1)NC1CC(N2C(CCC2C1)=O)(C)C)F | C14H18ClFN4O
reactant | 1-(5-amino-2-cyclopropyl-4-fluorophenyl)-4-methyl-1H-tetrazol-5(4H)-one | 50 mg | NC=1C(=CC(=C(C1)N1N=NN(C1=O)C)C1CC1)F | C11H12FN5O
catalyst | TFA | 5 drops | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | isopropanol | 1 ml | C(C)(C)O | C3H8O
product | 1-(5-(5-fluoro-4-(hexahydro-5,5-dimethylindolizin-3(5H)-one-7-ylamino)pyrimidin-2-ylamino)-2-cyclopropyl-4-fluorophenyl)-4-methyl-1H-tetrazol-5(4H)-one | FC=1C(=NC(=NC1)NC=1C(=CC(=C(C1)N1N=NN(C1=O)C)C1CC1)F)NC1CC(N2C(CCC2C1)=O)(C)C | C25H29F2N9O2
